US06743792B2
A mixture of 2-[4-(4-chlorobenzoyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione (0.05 mol), ethanol (150 ml), water (150 ml) and NaOH (50%; 10 ml) was stirred at 10° C. A mixture of NaBH4 (0.05 mol), water (50 ml) and NaOH (50%; 2 ml) was added dropwise during 15 minutes. After stirring for 3 hours, 300 ml ice was added. The mixture was acidified with concentrated HCl. The product was extracted with CHCl3, yielding 5.8 g of 2-[4-[(4-chlorophenyl)hydroxymethyl]phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione (intern. 31). The organic layer was dried, filtered and evaporated. The residue was crystallized with 2-propanol. The product was filtered off, washed with 2,2′-oxybispropane and dried, yielding a second fraction of 5.5 g of intermediate 31.

reactant | 2-[4-(4-chlorobenzoyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 0.05 mol | ClC1=CC=C(C(=O)C2=CC=C(C=C2)N2N=CC(NC2=O)=O)C=C1 | C16H10ClN3O3
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | NaBH4 | 0.05 mol | [BH4-].[Na+]
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[4-[(4-chlorophenyl)hydroxymethyl]phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 5.8 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)N1N=CC(NC1=O)=O)O | C16H12ClN3O3
